US08314100B2
1-[(3-Methoxy-6-methylquinoxalin-2-yl)aminocarbonyl]-4-(2,6-dimethylphenyl)piperazine (Compound 135)
Ethyl N-(3-methoxy-6-methylquinoxalin-2-yl)carbamate and 1-(2,6-dimethylphenyl)piperazine were reacted by the same way with the example 127 to obtain the titled compound (yield, 83%). 1H NMR (300 MHz, CDCl3): δ 2.33-2.50 (m, 9H), 3.14-2.20 (m, 4H), 3.70-3.75 (m, 4H), 4.14 (s, 3H), 7.00 (s, 3H), 7.09-7.78 (m, 3H).

reactant | Ethyl N-(3-methoxy-6-methylquinoxalin-2-yl)carbamate | COC=1C(=NC2=CC=C(C=C2N1)C)NC(OCC)=O | C13H15N3O3
reactant | 1-(2,6-dimethylphenyl)piperazine | CC1=C(C(=CC=C1)C)N1CCNCC1 | C12H18N2
product | 1-[(3-Methoxy-6-methylquinoxalin-2-yl)aminocarbonyl]-4-(2,6-dimethylphenyl)piperazine | 83% | COC=1C(=NC2=CC=C(C=C2N1)C)NC(=O)N1CCN(CC1)C1=C(C=CC=C1C)C | C23H27N5O2
